US07718692B2
B. 5-Methyl-1H-pyrazole-3-carboxylic acid (4-hydroxy-phenyl)-amide
This compound was prepared from 5-methyl-1H-pyrazole-3-carboxylic acid (4-benzyloxy-phenyl)-amide, using the same method used to prepare pyridine-2-carboxylic acid (4-hydroxyphenyl)amide. The product was purified by flash chromatography, on silica gel, eluted with 5 to 10% methanol in DCM as the eluant, to give the product as an off white solid, 2.75 g (68%). MS m/z 218 MH+). 1H NMR(DMSO-d6) δ 2.28 (s, 3H), 6.47 (s, 1H), 6.71 (d, 2H), 7.55 (d, 2H), 9.19 (s, 1H), 9.67 (s, 1H) and 13.00 (s, 1H). Anal. calcd for C11H11N3O2; C, 60.08; H, 5.17; N, 19.10. Found: C, 60.00; H, 4.99; N, 19.25.

reactant | 5-methyl-1H-pyrazole-3-carboxylic acid (4-benzyloxy-phenyl)-amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1=NNC(=C1)C | C18H17N3O2
reactant | pyridine-2-carboxylic acid (4-hydroxyphenyl)amide | OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C12H10N2O2
product | 5-Methyl-1H-pyrazole-3-carboxylic acid (4-hydroxy-phenyl)-amide | OC1=CC=C(C=C1)NC(=O)C1=NNC(=C1)C | C11H11N3O2
